US09278910B2
A solution of 2-(tert-butoxy)-2-oxoethanaminium chloride (3.00 g, 17.9 mmol) and potassium carbonate (4.95 g, 35.8 mmol) in DMF (20 mL) was stirred at room temperature for 2 min. To the reaction mixture was added 4-(bromomethyl)benzonitrile (3.19 g, 16.3 mmol) and stirring continued for 12 h. The reaction mixture was diluted with water (50 mL) and extracted with EA (3×20 mL). The combined organic extract was dried over MgSO4 then concentrated. Purification of the crude product by a silica gel column (DCM/MeOH) gave 2.77 g (68%) of tert-butyl 2-((4-cyanobenzyl)amino)acetate INT-31 as a yellow oil. LCMS-ESI (m/z) calculated for C14H18N2O2: 246; found 247 [M+H]+, tR=0.92 min (Method 3).

reactant | 2-(tert-butoxy)-2-oxoethanaminium chloride | 17.9 mmol, 3.00 g | [Cl-].C(C)(C)(C)OC(C[NH3+])=O
reactant | potassium carbonate | 35.8 mmol, 4.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(bromomethyl)benzonitrile | 16.3 mmol, 3.19 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | tert-butyl 2-((4-cyanobenzyl)amino)acetate | 2.77 g, 68% | C(#N)C1=CC=C(CNCC(=O)OC(C)(C)C)C=C1 | C14H18N2O2
